US05840732
i) Synthesis of 4-(imidazo[1,2-a]pyridin-5-ylthio)butanoic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazin-7-yl)propyl]amide
To a dichloromethane solution of 590 mg (2.5 mmol) of 4-(imidazo[1,2-a]pyridine-5-ylthio)butanoic acid and 383 mg (2.5 mmol) of HOBt, 479 mg (2.5 mmol) of WSC and 0.42 ml (3 mmol) of triethylamine were added. After the reaction mixture was stirred at 0° C. for 1.5 hours, 1.158 g (3 mmol) of 3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazin-7-yl)propylamine hydrochloride and 0.84 ml (6 mmol) of triethylamine were added, followed by stirring at room temperature for 16 hours. After water was added, the mixture was extracted with dichloromethane and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, chloroform→chloroform/methanol=25/1) to yield 683.9 mg (48.2%, white oily substance) of the desired product.

reactant | 4-(imidazo[1,2-a]pyridine-5-ylthio)butanoic acid | 2.5 mmol, 590 mg | N=1C=CN2C1C=CC=C2SCCCC(=O)O | C11H12N2O2S
reactant | HOBt | 2.5 mmol, 383 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 2.5 mmol, 479 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 3 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazin-7-yl)propylamine hydrochloride | 3 mmol, 1.158 g | Cl.O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCN)=O)=O
reactant | triethylamine | 6 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(imidazo[1,2-a]pyridin-5-ylthio)butanoic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazin-7-yl)propyl]amide | O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCNC(CCCSC2=CC=CC=1N2C=CN1)=O)=O)=O | C27H29N5O5S2
